US08445495B2
To a 0° C. solution of (R)-2-methylpiperazine (5.0 g, 50 mmol, 1.0 equiv) in dry DCM (200 mL) was added triethylamine (21 mL, 150 mmol, 3 equiv) by syringe. A solution of Boc2O (10.4 g, 47.4 mmol, 0.95 equiv) was then added as a solution in dry DCM (100 mL) over the course of an hour. After stirring for an addition 15 min at 0° C., the reaction mixture was stirred at room temperature for 30 min. The reaction mixture was then washed with aq. satd. NaHCO3 and brine. The resulting DCM solution was dried over sodium sulfate, filtered, and concentrated in vacuo, and used in the next step without further purification. The residue was dissolved in dry DCM (50 mL), and Et3N (21 mL, 150 mmol, 3 equiv) was added by syringe. To this room temperature solution was added CbzCl (8.4 mL, 60 mmol, 1.2 equiv) dropwise by syringe. After stirring at room temperature for 30 minutes, the mixture was quenched by the addition of aq. satd. NaHCO3. The solution was washed an additional time with aq. satd. NaHCO3, twice with aq. 1 N KHSO4, and twice with brine. The DCM layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting residue was dissolved in MeOH (100 mL), and HCl (4 N in dioxane, 150 mL, 600 mmol, 12 equiv) was added dropwise by syringe. After 2 h, the reaction mixture was concentrated in vacuo. To the resulting solid was added EtOAc and 1 N NaOH. The aqueous layer was extracted twice with EtOAc, and the organic layers were combined and washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide (R)-benzyl 2-methylpiperazine-1-carboxylate (5.3 g, 45%).

reactant | (R)-2-methylpiperazine | 50 mmol, 5.0 g, 1.0 equiv | C[C@H]1NCCNC1 | C5H12N2
reactant | triethylamine | 150 mmol, 21 mL, 3 equiv | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 47.4 mmol, 10.4 g, 0.95 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 150 mmol, 21 mL, 3 equiv | CCN(CC)CC | C6H15N
reactant | CbzCl | 60 mmol, 8.4 mL, 1.2 equiv | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | HCl | 600 mmol, 4 N, 150 mL, 12 equiv | Cl | ClH
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-benzyl 2-methylpiperazine-1-carboxylate | 5.3 g, 45% | C[C@H]1N(CCNC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
